US07368578B2
A mixture of ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (0.66 g), tert-butyl 4-{4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate (0.81 g), potassium carbonate (0.22 g) and N,N-dimethylformamide (20 mL) was stirred at 90° C. for 1 hr. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with tetrahydrofuran-hexane (1:5, v/v) to give tert-butyl 4-{4-[(E)-2-(3-{[4-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate as crystals (0.53 g, yield 41%). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 112-114° C.

reactant | ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 0.66 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
reactant | tert-butyl 4-{4-[(E)-2-(3-hydroxy-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate | 0.81 g | OC1=NN(C=C1/C=C/C=1N=C(SC1C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H29N5O3S
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl 4-{4-[(E)-2-(3-{[4-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)-3-methoxybenzyl]oxy}-1-phenyl-1H-pyrazol-4-yl)ethenyl]-5-methyl-1,3-thiazol-2-yl}piperazine-1-carboxylate | 0.53 g, yield 41% | C(C)OC(CC1=CC=C(C=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C=2N=C(SC2C)N2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C1)OC)C)=O | C47H52N6O8S
